US08138215B2
A solution of 1,4-dioxaspiro[4.5]decan-8-one (15 g, 96 mmol) in EtOAc (150 mL) was added to a solution of methyl 2-(benzyloxycarbonylamino)-2-(dimethoxyphosphoryl)acetate (21.21 g, 64.0 mmol) in 1,1,3,3-tetramethylguanidine (10.45 mL, 83 mmol) and EtOAc (150 mL). The resulting solution was the stirred at ambient temperature for 72 h and then it was diluted with EtOAc (25 mL). The organic layer was washed with 1N HCl (75 mL), H2O (100 mL) and brine (100 mL), dried (MgSO4), filtered and concentrated. The residue was purified via Biotage (5% to 25% EtOAc/Hexanes; 300 g column). The combined fractions containing the product were then concentrated under vacuum and the residue was re-crystallized from hexanes/EtOAc to give white crystals that corresponded to methyl 2-(benzyloxycarbonylamino)-2-(1,4-dioxaspiro[4.5]decan-8-ylidene)acetate (6.2 g) 1H NMR (400 MHz, CDCl3-d) δ ppm 7.30-7.44 (5 H, m), 6.02 (1 H, br. s.), 5.15 (2 H, s), 3.97 (4 H, s), 3.76 (3 H, br. s.), 2.84-2.92 (2 H, m), 2.47 (2 H, t, J=6.40 Hz), 1.74-1.83 (4 H, m). LC (Cond, OL1): Rt=2.89 min. LC/MS: Anal. Calcd. For [M+Na]+ C19H23NNaO6: 745.21; found: 745.47.

reactant | 1,4-dioxaspiro[4.5]decan-8-one | 96 mmol, 15 g | O1CCOC12CCC(CC2)=O | C8H12O3
reactant | methyl 2-(benzyloxycarbonylamino)-2-(dimethoxyphosphoryl)acetate | 64.0 mmol, 21.21 g | C(C1=CC=CC=C1)OC(=O)NC(C(=O)OC)P(=O)(OC)OC | C13H18NO7P
reactant | 1,1,3,3-tetramethylguanidine | 83 mmol, 10.45 mL | CN(C(=N)N(C)C)C | C5H13N3
solvent | EtOAc | 150 mL | CCOC(=O)C | C4H8O2
solvent | EtOAc | 150 mL | CCOC(=O)C | C4H8O2
solvent | EtOAc | 25 mL | CCOC(=O)C | C4H8O2
product | methyl 2-(benzyloxycarbonylamino)-2-(1,4-dioxaspiro[4.5]decan-8-ylidene)acetate | 6.2 g | C(C1=CC=CC=C1)OC(=O)NC(C(=O)OC)=C1CCC2(OCCO2)CC1 | C19H23NO6
